US07956069B2
(3aS,7aS)-1-[1-[1-(3-methoxythiophene-2-carbonyl)-4-piperidyl]-4-piperidyl]-3-methyl-3a,4,5,6,7,7a-hexahydrobenzoimidazol-2-one
To a solution of (3aS,7aS)-1-(1,4′-bipiperidin-4-yl)octahydro-2H-benzimidazol-2-one. 2HCl (71 mg, 0.18 mmol) in DMF (4 mL) was added diisopropylethylamine (0.1 mL, 0.57 mmol) and 3-methoxythiophene-2-carboxylic acid (35 mg, 0.2 mmol) at room temperature, the mixture was then sonicated to dissolve the starting materials and HATU (75 mg, 0.2 mmol) was then added. The solvent was removed under reduced pressure and the mixture was diluted in dichloromethane (60 mL). The mixture was washed with 1N NaOH (5 mL) and brine (5 mL) and concentrated in vacuo. The residue was then purified by high pH prep. LCMS to provide the title compound as a white solid (49 mg, 55%). 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.21-1.41 (m, 4H), 1.42-1.56 (m, 2H), 1.57-1.67 (m, 1H), 1.67-1.88 (m, 7H), 1.99 (d, J=8.98 Hz, 2H), 2.15-2.34 (m, 3H), 2.40-2.57 (m, 2H), 2.65 (s, 3H), 2.78-2.89 (m, 2H), 2.93 (t, J=9.96 Hz, 2H), 3.43 (s, 1H), 3.64-3.81 (m, 1H), 3.85 (s, 3H), 4.11-4.47 (m, 1H), 6.74 (d, J=5.47 Hz, 1H), 7.29 (d, J=5.47 Hz, 1H). MS (M+1): 461.2.

reactant | diisopropylethylamine | 0.57 mmol, 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-methoxythiophene-2-carboxylic acid | 0.2 mmol, 35 mg | COC1=C(SC=C1)C(=O)O | C6H6O3S
reactant | HATU | 0.2 mmol, 75 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (3aS,7aS)-1-[1-[1-(3-methoxythiophene-2-carbonyl)-4-piperidyl]-4-piperidyl]-3-methyl-3a,4,5,6,7,7a-hexahydrobenzoimidazol-2-one | 49 mg, 55% | COC1=C(SC=C1)C(=O)N1CCC(CC1)N1CCC(CC1)N1C(N([C@@H]2[C@@H]1CCCC2)C)=O | C24H36N4O3S
